US07592357B2
Step 1. Methyl 2-methyl-4-(2-naphthalenyl)-6-oxo-1,4,5,6-tetrahydro-3-pyridinecarboxylate
2-Naphthaldehyde (30.0 g, 192 mmol, 1.00 equiv), 2,2-dimethyl-1,3-dioxane-4,6-dione (27.6 g, 192 mmol, 1.00 equiv), methyl acetoacetate (20.7 mL, 192 mmol, 1.00 equiv), and ammonium acetate (15.6 g, 202 mmol, 1.05 equiv) were dissolved in acetic acid (0.20 L) and heated to reflux for 4 hours, then cooled to room temperature. Addition of water (1 L) to the cooled reaction mixture induced formation of a white precipitate. The solid was collected by filtration and triturated with diethyl ether to provide the 20.5 g (36%) of the product as an off-white solid. MS (ES+) m/e 296 [M+H]+.

reactant | 2-Naphthaldehyde | 192 mmol, 30.0 g, 1.00 equiv | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 192 mmol, 27.6 g, 1.00 equiv | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | methyl acetoacetate | 192 mmol, 20.7 mL, 1.00 equiv | C(CC(=O)C)(=O)OC | C5H8O3
reactant | ammonium acetate | 202 mmol, 15.6 g, 1.05 equiv | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 0.20 L | C(C)(=O)O | C2H4O2
solvent | water | 1 L | O | H2O
product | Methyl 2-methyl-4-(2-naphthalenyl)-6-oxo-1,4,5,6-tetrahydro-3-pyridinecarboxylate | 20.5 g, 36% | CC=1NC(CC(C1C(=O)OC)C1=CC2=CC=CC=C2C=C1)=O | C18H17NO3
